US07273952B2
(2,5-bis-(4-fluorobenzyloxy)-2-(3-methoxyphenyl)-cyclohexylmethyl]-dimethylamine Hydrochloride
When reacting 2-dimethylaminomethyl-1-(3-methoxyphenyl)-cyclohexane-1,4-diol hydrochloride with 4-fluorobenzylbromide in accordance with AAV 7, (2,5-bis-(4-fluorobenzyloxy)-2-(3-methoxyphenyl)-cyclohexylmethyl]-dimethylamine was also obtained as a secondary product after chromatographic purification on silica gel, which was converted into the corresponding hydrochloride in the same way as in AAV 1.

reactant | 2-dimethylaminomethyl-1-(3-methoxyphenyl)-cyclohexane-1,4-diol hydrochloride | Cl.CN(C)CC1C(CCC(C1)O)(O)C1=CC(=CC=C1)OC
reactant | 4-fluorobenzylbromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | (2,5-bis-(4-fluorobenzyloxy)-2-(3-methoxyphenyl)-cyclohexylmethyl]-dimethylamine | FC1=CC=C(COC2(C(CC(CC2)OCC2=CC=C(C=C2)F)CN(C)C)C2=CC(=CC=C2)OC)C=C1 | C30H35F2NO3
product | (2,5-bis-(4-fluorobenzyloxy)-2-(3-methoxyphenyl)-cyclohexylmethyl]-dimethylamine Hydrochloride | Cl.FC1=CC=C(COC2(C(CC(CC2)OCC2=CC=C(C=C2)F)CN(C)C)C2=CC(=CC=C2)OC)C=C1 | InChI=1S/C30H35F2NO3.ClH/c1-33(2)19-25-18-29(35-20-22-7-11-26(31)12-8-22)15-16-30(25,24-5-4-6-28(17-24)34-3)36-21-23-9-13-27(32)14-10-23;/h4-14,17,25,29H,15-16,18-21H2,1-3H3;1H
